US08431569B2
Step 10. [(4-Azido-2-fluorocyclohexyl)oxy](tert-butyl)dimethylsilane
To a stirred solution of 4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorocyclohexyl methanesulfonate (570 mg, 1.75 mmol) in DMF (10 mL) was added sodium azide (340 mg, 5.24 mmol). The reaction mixture was heated to 100° C. overnight, diluted with EtOAc, and washed with water. The organic layer was dried, concentrated, and purified by flash chromatography to afford the title compound.

reactant | 4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorocyclohexyl methanesulfonate | 1.75 mmol, 570 mg | CS(=O)(=O)OC1CC(C(CC1)O[Si](C)(C)C(C)(C)C)F | C13H27FO4SSi
reactant | sodium azide | 5.24 mmol, 340 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [(4-Azido-2-fluorocyclohexyl)oxy](tert-butyl)dimethylsilane | N(=[N+]=[N-])C1CC(C(CC1)O[Si](C)(C)C(C)(C)C)F | C12H24FN3OSi
